US07968727B2
A typical but not limiting example represents a reaction of 2-(1-propyl-4 methyl-6-(1′-methylbenzimidazole-2-yl)benzimidazole with 4-bromomethyl-2′-formylbiphenyl in N,N-dimethylacetamide with potassium tert-butoxide or potassium carbonate or sodium hydroxide as a base to give 4′-[(2-n-propyl-4-methyl-6-(1-methyl-imidazol-4-yl)-benzimidazol-1-yl)methyl]-biphenyl-2-carboxaldehyde. In another typical but not limiting example 4-bromomethyl-2′-formylbiphenyl reacts in similar conditions with 2-butyl-4,4-tetramethylene-4,5-dihydroimidazol-5-one to give 2-butyl-4,5-dihydro-1-((2′-formyl-4-biphenylyl)methyl)-4,4-tetramethyleneimidazol-5-one.

reactant | 1-propyl-4 methyl-6-(1′-methylbenzimidazole-2-yl)benzimidazole | C(CC)N1C=NC2=C1C=C(C=C2C)C2=NC1=C(N2C)C=CC=C1 | C19H20N4
reactant | 4-bromomethyl-2′-formylbiphenyl | BrCC1=CC=C(C=C1)C1=C(C=CC=C1)C=O | C14H11BrO
reactant | potassium tert-butoxide | CC(C)([O-])C.[K+]
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | sodium hydroxide | [OH-].[Na+]
reactant | N,N-dimethylacetamide | CN(C(C)=O)C | C4H9NO
product | 4′-[(2-n-propyl-4-methyl-6-(1-methyl-imidazol-4-yl)-benzimidazol-1-yl)methyl]-biphenyl-2-carboxaldehyde | C(CC)C1=NC2=C(N1CC1=CC=C(C=C1)C=1C(=CC=CC1)C=O)C=C(C=C2C)C=2N=CN(C2)C | C29H28N4O
